US04959361
2-[4-[4-(2-Chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]-3-butynyl]-1H-benz[de]isoquinoline-1,3(2H)-dione
Coupling of 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno[3,2-f][1,2,4] triazolo[4,3-a][1,4]diazepine with 2-(3-butyn-1-yl)-1H-benz[de]isoquinoline-1,3(2H)-dione as described in Example 37 yielded after chromatography and crystallization from ethyl acetate light yellow crystals of the title compound with m.p. 175°-179° C. A higher melting crystalline modification with m.p. 227°-229° C. was also observed.

reactant | 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno[3,2-f][1,2,4] triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)I)C(=NN2)C | C15H10ClIN4S
reactant | 2-(3-butyn-1-yl)-1H-benz[de]isoquinoline-1,3(2H)-dione | C(CC#C)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O | C16H11NO2
product | 2-[4-[4-(2-Chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]-3-butynyl]-1H-benz[de]isoquinoline-1,3(2H)-dione | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C#CCCN3C(C1=CC=CC=4C1=C(C3=O)C=CC4)=O)C(=NN2)C | C31H20ClN5O2S
